US07601846B2
(2-Imino-4,5,6,7-tetrahydro-benzothiazol-3-yl)-acetic acid ethyl ester hydrobromide salt (23) (Zhu et al., J. Med. Chem. 2002, 45, 5090-5097)
A mixture of 2-amino-4,5,6,7-tetrahydrobenzothiazole (2.296 g, 14.9 mmol) and ethyl bromoacetate (2.747 g, 16.4 mmol) was refluxed in ethanol (50 mL) containing 3 drops of Et3N for 90 minutes. The reaction mixture was concentrated to half volume in vacuo and the resulting precipitate was filtered and rinsed with cold ethanol, then ether to give a white powder in 79% yield: mp 222-224° C.; 1H-NMR (DMSO-d6) 1.25 (t, 3H), 1.74 (d, 4H), 2.39 (s, 2H), 2.52 (m, 2H), 4.22 (q, 2H), 4.95 (s, 2H), 9.67 (s, 2H); Anal. C11H17Br1N2O2S (C, H, N); HR-MS (EI) m/z 240.0931 (M+).

reactant | 2-amino-4,5,6,7-tetrahydrobenzothiazole | 14.9 mmol, 2.296 g | NC=1SC2=C(N1)CCCC2 | C7H10N2S
reactant | ethyl bromoacetate | 16.4 mmol, 2.747 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Et3N | 3 drops | CCN(CC)CC | C6H15N
product | (2-Imino-4,5,6,7-tetrahydro-benzothiazol-3-yl)-acetic acid ethyl ester hydrobromide salt | 79% yield | Br.C(C)OC(CN1C(SC2=C1CCCC2)=N)=O | InChI=1S/C11H16N2O2S.BrH/c1-2-15-10(14)7-13-8-5-3-4-6-9(8)16-11(13)12;/h12H,2-7H2,1H3;1H
